US08877815B2
To a suspension of 3-(biphenyl-4-yl)propanoic acid (5 g, 22.10 mmol) and K2CO3 (6.11 g, 44.2 mmol) in DMF (22 ml), BnBr (3.94 ml, 33.1 mmol) was added. After stirred for 15 hours, additional BnBr (3.94 ml, 33.1 mmol) was added. After stirred for further 22 hours, the reaction was diluted with H2O, extracted with EtOAc, washed with brine, dried over MgSO4, filtered, and concentrated under reduced pressure. The obtained residue was diluted with EtOAc (150 ml), and NH-silica gel was added to the suspension. The EtOAc was evaporated, and the resulted slurry was allowed to stir for 1 hour. The slurry was eluted with 10% EtOAc/heptane (150 ml) to give benzyl 3-(biphenyl-4-yl)propanoate (6.16 g); Retention time=1.71 minutes (condition A); 1H NMR (400 MHz, CDCl3) δ ppm 2.72 (t, J=7.8 Hz, 2H) 3.01 (t, J=7.8 Hz, 2H) 5.12 (s, 2H) 7.21-7.47 (m, 14H).

reactant | 3-(biphenyl-4-yl)propanoic acid | 22.10 mmol, 5 g | C1(=CC=C(C=C1)CCC(=O)O)C1=CC=CC=C1 | C15H14O2
reactant | K2CO3 | 44.2 mmol, 6.11 g | C(=O)([O-])[O-].[K+].[K+]
reactant | BnBr | 33.1 mmol, 3.94 ml | C1=CC=C(C=C1)CBr | C7H7Br
reactant | BnBr | 33.1 mmol, 3.94 ml | C1=CC=C(C=C1)CBr | C7H7Br
solvent | DMF | 22 ml | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | benzyl 3-(biphenyl-4-yl)propanoate | 6.16 g | C1(=CC=C(C=C1)CCC(=O)OCC1=CC=CC=C1)C1=CC=CC=C1 | C22H20O2
